US07696229B2
1. Synthesis of 2H-benzo[b][1,4]oxazin-3(4H)-one
Into a 100 mL round bottom flask was placed a solution of 2-aminophenol (5.45 g, 49.98 mmol) in CHCl3 (30 mL). To this was added TEBA (11.4 g, 50.00 mmol). To the mixture was added NaHCO3 (16.8 g, 200.00 mmol). This was followed by the addition of a solution of 2-chloroacetyl chloride (8.16 g, 72.21 mmol) in CHCl3 (5 mL), which was added dropwise with stirring, while cooling to a temperature of 0° C. over a time period of 20 minutes. The resulting solution was allowed to react, with stirring, for 1 hour while the temperature was maintained at 0-5° C. The resulting solution was allowed to react, with stirring, overnight while the temperature was maintained at 55° C. The mixture was concentrated by evaporation under vacuum using a rotary evaporator. The product was precipitated by the addition of H2O. A filtration was performed. The filter cake was washed 2 times with 50 mL of H2O. The final product was purified by recrystallization from ethanol. This resulted in 4.5 g (60%) of 2H-benzo[b][1,4]oxazin-3(4H)-one as a white solid.

reactant | 2-aminophenol | 49.98 mmol, 5.45 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | NaHCO3 | 200.00 mmol, 16.8 g | C(=O)(O)[O-].[Na+]
reactant | 2-chloroacetyl chloride | 72.21 mmol, 8.16 g | ClCC(=O)Cl | C2H2Cl2O
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | TEBA | 50.00 mmol, 11.4 g | CC[N+](CC)(CC)CC1=CC=CC=C1.[Cl-]
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 2H-benzo[b][1,4]oxazin-3(4H)-one | O1C2=C(NC(C1)=O)C=CC=C2 | C8H7NO2
